US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (0.17 g) is alkylated using 5-chloromethyl-1,3-difluoro-2-isopropoxy-benzene (0.15 g; 0.68 mmol) and K2CO3 (0.3 g; 2.16 mmol) at RT for 18 h. After aqueous work-up the crude material (0.27 g) is de-acetylated in hydrochloric acid (30 ml; 6 N) at reflux. After aqueous work-up 5-amino-1-(3,5-difluoro-4-isopropoxy-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (0.20 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 0.17 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 5-chloromethyl-1,3-difluoro-2-isopropoxy-benzene | 0.68 mmol, 0.15 g | ClCC=1C=C(C(=C(C1)F)OC(C)C)F | C10H11ClF2O
reactant | K2CO3 | 2.16 mmol, 0.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | hydrochloric acid | 6 N, 30 ml | Cl | ClH
product | 5-amino-1-(3,5-difluoro-4-isopropoxy-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 0.20 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC1=CC(=C(C(=C1)F)OC(C)C)F)=O)(C)C | C20H21F2N3O4
